US07754737B2
Crude (R)-3-((R)-(3-methoxypropoxy)(phenyl)methyl)piperidine-1-carbonyl chloride (60 mg, 0.184 mmol), 2-(trimethylsilyl)ethyl (S)-2-amino-3-cyclohexylpropylcarbamate (69 mg, 0.23 mmol, 1.25 equiv) and triethylamine (64 μL, 0.46 mmol, 2.5 equiv) were combined in CH2Cl2 (1 mL) at rt and left on the shaker overnight. After concentration, the product was isolated by prep HPLC to afford 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((R)-(3-methoxypropoxy)-(phenyl)methyl)piperidine-1-carboxamido)-3-cyclohexyl-propylcarbamate (85.3 mg, 79%). LC-MS (3 min) tR=2.44 min, m/z 590 (M+1).

reactant | (R)-3-((R)-(3-methoxypropoxy)(phenyl)methyl)piperidine-1-carbonyl chloride | 0.184 mmol, 60 mg | COCCCO[C@H]([C@H]1CN(CCC1)C(=O)Cl)C1=CC=CC=C1 | C17H24ClNO3
reactant | 2-(trimethylsilyl)ethyl (S)-2-amino-3-cyclohexylpropylcarbamate | 0.23 mmol, 69 mg, 1.25 equiv | N[C@H](CNC(OCC[Si](C)(C)C)=O)CC1CCCCC1 | C15H32N2O2Si
reactant | triethylamine | 0.46 mmol, 64 μL, 2.5 equiv | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((R)-(3-methoxypropoxy)-(phenyl)methyl)piperidine-1-carboxamido)-3-cyclohexyl-propylcarbamate | 85.3 mg, 79% | COCCCO[C@H]([C@H]1CN(CCC1)C(=O)N[C@H](CNC(OCC[Si](C)(C)C)=O)CC1CCCCC1)C1=CC=CC=C1 | C32H55N3O5Si
